US06103738
(a) (R/S)-1-(t-Butyloxycarbonyl)-3-(morpholinecarbonyl)pyrrolidine
The subtitle compound was prepared by the method of Example 5(e) with (R/S)-1-Boc-pyrrolidine-3-carboxylic acid [MacLeod et al J. Med. Chem., 33, 2052 (1990)] and morpholine. The subtitle compound (62%) was obtained as an oil. Rf 0.69 (CH2Cl2 /MeOH 95/5, v/v). MS m/z 285 (MH+).

reactant | (R/S)-1-Boc-pyrrolidine-3-carboxylic acid | C(=O)(OC(C)(C)C)N1CC(CC1)C(=O)O | C10H17NO4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (R/S)-1-(t-Butyloxycarbonyl)-3-(morpholinecarbonyl)pyrrolidine | 62% | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)N1CCOCC1 | C14H24N2O4
